US06903215B2
A solution of 516 μL (1.03 mmol, 1.2 eq) of oxalyl chloride (2.0 M solution in dichloromethane) was diluted with 2 mL of dichloromethane. To this solution was added a solution of 146 μL (2.06 mmol, 2.4 eq.) of DMSO in 0.2 mL of dichloromethane at −60° C. and the mixture was stirred for 10 minutes at this temperature. Then to this mixture was added a solution of 200 mg (0.86 mmol) of 1,1,1-trifluoro-4-methyl-4-pyridin-2-ylpentan-2-ol in 2 mL of dichloromethane at −60° C. The resulting mixture was stirred at −60° C. for 15 minutes and then 600 μL (4.3 mmol, 5.0 eq.) of triethylamine was added. The cooling bath was removed and the reaction mixture was allowed to warm to room temperature and quenched with water. The organic layer was separated. The aqueous layer was extracted three times with dichloromethane. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography, providing 172 mg (86%) 1,1,1-trifluoro-4-methyl-4-pyridin-2-ylpentan-2-one as a brown oil.

reactant | oxalyl chloride | 1.03 mmol, 2.0 M, 516 μL, 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2.06 mmol, 146 μL, 2.4 eq. | CS(=O)C | C2H6OS
reactant | 1,1,1-trifluoro-4-methyl-4-pyridin-2-ylpentan-2-ol | 0.86 mmol, 200 mg | FC(C(CC(C)(C1=NC=CC=C1)C)O)(F)F | C11H14F3NO
reactant | triethylamine | 4.3 mmol, 600 μL, 5.0 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1,1,1-trifluoro-4-methyl-4-pyridin-2-ylpentan-2-one | 172 mg, 86% | FC(C(CC(C)(C1=NC=CC=C1)C)=O)(F)F | C11H12F3NO
